US06110676
Synthesis of 4-(N-(tert-butyloxycarbonyl)-aminobenzoic acid
To 100 mM of methyl-4-amino benzoic acid stirring in 150 mL of dioxane was added 110 mM of di-tert-butyl-dicarbonate. The reaction was warmed to 70-80° C. and let stir for about 48 hours. The solvent was then evaporated under reduced pressure and the residue redissolved in about 300 mL of ethylacetate. The organic layer was then washed three times with 10% aqueous citric acid, dried (Na2SO4), filtered and evaporated to a solid. The solid was then suspended in 150 mL of 1N NaOH and 50 mL acetone. The saponification of the ester was allowed to run overnight until complete hydrolysis was observed by thin layer chromatography (TLC). To the solution was added citric acid until the pH of the solution was approximately 4. The solid was then collected by vacuum filtration and dried in a vacuum oven at 50° C. Yield 20.3 g, 85%. The product was a single peak when analyzed by HPLC using 0.1% trifluoroacetic acid (TFA) and a linear acetonitrile gradient.

reactant | methyl-4-amino benzoic acid | 100 mM | CC1=C(C(=O)O)C=CC(=C1)N | C8H9NO2
reactant | di-tert-butyl-dicarbonate | 110 mM | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | N-(tert-butyloxycarbonyl)-aminobenzoic acid | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CC=C1 | C12H15NO4
